2130-02-18 07:51:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
 INVASIVE VENTILATION - START [**2130-2-17**] 06:00 PM
 MULTI LUMEN - START [**2130-2-17**] 07:00 PM
 ARTERIAL LINE - START [**2130-2-17**] 08:13 PM
 FEVER - 101.5
F - [**2130-2-17**] 09:00 PM
   Pressors switched to levophed
   FiO2 weaned to 40%
   Weaning sedation
   History obtained from Family / [**Hospital 56**] Medical records
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2130-2-17**] 08:00 PM
   Azithromycin - [**2130-2-17**] 10:00 PM
   Metronidazole - [**2130-2-18**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2130-2-17**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Pain: Unable to answer
   Flowsheet Data as of  [**2130-2-18**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.1
C (98.7
   HR: 60 (60 - 78) bpm
   BP: 117/72(91) {101/47(62) - 133/72(93)} mmHg
   RR: 16 (16 - 23) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 94 kg (admission): 92.8 kg
    CVP: 11 (9 - 22)mmHg
   Mixed Venous O2% Sat: 97 - 97
   Total In:
                                                                  3,868 mL
                                                                    836 mL
   PO:
   TF:
   IVF:
                                                                    618 mL
                                                                    836 mL
   Blood products:
   Total out:
                                                                    630 mL
                                                                    400 mL
   Urine:
                                                                    110 mL
                                                                    380 mL
   NG:
                                                                     30 mL
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                  3,238 mL
                                                                    436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 70
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.37/37/165/22/-3
   Ve: 8.5 L/min
   PaO2 / FiO2: 412
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), bounding pulse.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present). Hands
   are warm, not cyanotic.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, stasis dermatitis
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   192 K/uL
   13.0 g/dL
   192 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   26 mg/dL
   108 mEq/L
   138 mEq/L
   36.9 %
   15.6 K/uL
        [image002.jpg]
                             [**2130-2-17**]  05:09 PM
                             [**2130-2-17**]  08:28 PM
                             [**2130-2-17**]  09:07 PM
                             [**2130-2-18**]  04:04 AM
                             [**2130-2-18**]  06:29 AM
   WBC
   15.6
   Hct
   36.9
   Plt
   192
   Cr
   1.7
   TropT
   0.02
   <0.01
   TCO2
   20
   23
   22
   Glucose
   192
   Other labs:
   PT / PTT / INR:45.0/57.4/4.8 <- from 4.4,
   CK / CKMB / Troponin-T:70/3/<0.01,
   Lactic Acid:0.9 mmol/L from 2.7
   LDH:350 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs:
   [1][image003.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [2][**2130-2-18**] 04:04AM
                                    15.6*
                                    4.21*
                                    13.0*
                                    36.9*
                                     88
                                    30.9
                                    35.2*
                                    13.6
                                     192
   [3][**2130-2-17**] 02:50PM
                                   14.1*#
                                    4.37*
                                    13.0*
                                    38.3*
                                     88
                                    29.7
                                    33.9
                                    13.8
                                    128*
   [4][image003.gif]   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
                                    Atyps
                                    Metas
   [5][**2130-2-18**] 04:04AM
                                    91.8*
   4.0*
                                     4.1
                                     0.1
                                     0.1
   [6][**2130-2-17**] 02:50PM
                                    90.3*
   5.0*
                                     3.8
                                     0.7
                                     0.2
   [7][image003.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
   [8][**2130-2-18**] 04:04AM
                                     68*
                                     82*
                                    350*
                                     70
                                    145*
                                     64
                                     0.8
   [9][**2130-2-17**] 09:07PM
   371*
                                     68
   [10][**2130-2-17**] 02:50PM
                                     30
                                     57*
                                    405*
                                     43*
                                    137*
   0.6
   HAPTO < 5, FDP 0-10, Fibrinogen 337
   [11][image003.gif]   BLOOD GASES
                                    PEEP
                                    FiO2
                                     pO2
                                    pCO2
                                     pH
   [12][**2130-2-18**] 06:29AM
                                      5
                                     50
                                    165*
                                     37
                                    7.37
   [13][**2130-2-17**] 08:28PM
                                      5
                                     60
                                    121*
                                     40
                                    7.35
   [14][**2130-2-17**] 05:09PM
   264*
                                     37
                                    7.33*
   Imaging:
   Microbiology:
[**2130-2-17**] 8:57 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2130-2-17**]):
      [**10-16**] PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   76 yo M w/ [**Doctor Last Name 4969**] on coumadin, CHB pacer dependent, Afib, prostate CA on
   hydrocortisone po presents from home with acute onset chills and
   vomiting followed by septic shock and respiratory failure.
   # Septic Shock
   Presumably GI source from history. Also  possibly aspiration pneumonia,
   biliary source, endocarditis. UA negative at OSH. CXR more concerning
   for pulmonary edema or ARDS vs. infiltrate. Abdominal exam benign and
   CT ab/pelvis w/out contrast unremarkable at OSH. Also AI a concern
   given home steroid use. [**Month (only) 60**] have a cardiogenic component based on
   clinical exam on admission. On admission was on dopamine. Transistioned
   to levophed. Lactate trending down. CEs negative
   - continue broad coverage for abdominal source and pneumonia with IV
   cefepime, flagyl, azithro
   - cont IVF to keep CVP > 12
   - contine levophed to keep MAP>60, attempt to titrate off
   - continue steroids
   - f/u cultures (sputum, viral swab, stool, blood, urine)
   - IVF to keep CVP >12
   # Hypoxic Respiratory Failure
   Patient required intubation in setting of lying flat with line
   placement. CXR consistent with volume overload, EF unknown. FiO2 now
   40%.  Also concern for aspiration given emesis and question of opacity
   on CXR.
   - cover with broad spectrum ABX as above
   - wean sedation and transition to PS as tolerated, decrease FIO2
   - once BP stablizes, consider diuresis
   - repeat ECHO
   # Emesis
    As above, concerned for viral/bacterial gastroenteritis. No evidence
   of obstruction. LFTs underwhelming, exam benign. OSH non-contrast CT
   ab/pelvis unremarkable.
   - send stool, f/u other cultures
   - zofran prn
   - trand LFTs
   - OG tube to low continuous suction, NPO except meds
   # Acute Renal Failure
   Baseline 1.3 ([**2130-1-26**]), up to 1.7 on admit. Prerenal less likely since
   UOP improved and creatinine unchanged. Likely ATN [**1-24**] hypotension. Also
   restarted hydrocort/ketaconazole recently.
   - send urine lytes, eos
   - trend creatinine
   - avoid nephrotoxins
   # [**Month/Day (2) 4969**]/CHB pacer dependent
   [**First Name8 (NamePattern2) **] [**Male First Name (un) 6198**] on coumadin. Per wife INR 7.5 on last check [**1-24**] initiation of
   ketaconazole
   - hold coumadin in setting of elevated INR, trend closely with ABX
   regimen
   - check ECHO
   - CEs negative
   # Elevated LFTs
   CT at OSH unrevealing. Could be [**1-24**] shock liver.
   - trend
   # Prostate CA
   - holding ketoconazole in setting of N/V
   - po hydrocort switched to IV given shock
   - outpatient eval for ? sclerotic lesions seen on OSH CT ab/pelvis
   # Thrombocytopenia - Mild, baseline 160-200s. DIC labs negative
   - continue to trend
   ICU Care
   Nutrition:
   Glycemic Control:  ISS as on steroids
   Lines:
   Multi Lumen - [**2130-2-17**] 07:00 PM
   18 Gauge - [**2130-2-17**] 08:00 PM
   Arterial Line - [**2130-2-17**] 08:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:  H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU WEEKEND COVERAGE ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   76 y/o [**First Name8 (NamePattern2) **] [**First Name11 (Name Pattern1) 4721**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4969**], Afib, CHF, pacer, prostate ca, here with N/V,
   septic shock unclear source.
   Overnight pressors being weaned.  Lactate of 2.7, normalized.  Cardiac
   enzymes negative.
   Tm101.5, BP 117/70
 up to 160s/80s in room, with stimulation.  P A/C
   550x16/5/40% sat 100% ABG 7.37/37/165 on 50%.  V paced at 60.  CVP
   10-14.  U/O 50-100.
   Exam notable for sedated and intubated.  Opens eyes but not following
   commands.
   Neck supple, no [**Doctor First Name **].
   RRR mechanical S2, RR.  Lungs CTA b/l anteriorly / laterally.
   Abd soft NT/ND +BS. Extremities warm.  No edema.
   WBC 14 -> 15, Hct 36.9 Plt 192.
   Chem7 with bicarb of 22, Cr 1.7 (baseline 1.3).
   ALT/AST 68/82 Alk phos 145
 rising.
   INR 4.8.
   Cultures all NGTD / pending (here / [**Hospital1 2244**])
   Meds notable for levophed, cefepime, flagyl, azithro; hydrocort.
   Off fentanyl and versed as of 8am.
   76 y/o with septic shock, acute on chronic renal failure, respiratory
   failure.
   Agree with plan to continue to treat broadly for sepsis of unclear
   etiology, signs of improvement with lactate decreasing, pressor
   requirement decreasing.  Continue to wean pressors, and give stress
   does steroids.  Await cultures from OSH and here.
   Will obtain echo here given [**Hospital1 4969**], shock, though by Vigileo stroke volume
   appears to be adequate, relatively bradycardic.  Sedation now off, plan
   for PSV and SBT depending on mental status.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2130-2-18**] 11:55 AM ------
References
   1. javascript:command('LHBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   4. javascript:command('LHBD','expand')
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   7. javascript:command('LCBD','expand')
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
  11. javascript:command('LGBC','expand')
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_28%22);

2130-02-20 06:27:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:Pneumonia
   24 Hour Events:
   [**2-19**]
   - Urine cultures also growing group B strep
   - Pt in florrid delerium, AOx0 and agitated thought to be steroid
   induced delerium, with concominant toxic metabolic and ICU delerium
   contributing. He's currently on 2-4mg haldol IV TID PRN agitation,
   requiring restraints. This was later increased to 4-6mg haldol IV TID
   PRN. QTC on tele remained stable, attempted to get 12 lead w/o success.
   - Pt became hypertensive to 190s during agitation for a few minutes,
   was given hydral IV ONCE to good affect
   - We are weaning off his steroids going from 100mg IV Q8H to 50mg IV
   Q8H
   - Restarted his home lasix of 40mg PO Daily
   - Nurses concerned he was volume overloaded slightly as was net +
   600ccs, new rhales, and CVP 15-19. Was given an additional 20mg IV
   lasix ONCE
   -Still wheezy, agitated, ?dyspneic and net positive by 5am, given
   another 40mg IV Lasix ONCE
   -Developed R conjuntival hemorrhage likely secondary to elevated INR
   and possibly from hypertension. No visual defecits noted.
   -Hypertension returned to 160s systolic, was started on hydralazine 5mg
   IV Q6H as home lisinopril may worsen resolving ARF.
   -Stopped steroids as this was thought to be the cause of his delerium
   -Having continued dyspnea and upper airway sounds, likely secondary to
   agitation but possibility of laryngospasm. Apparently haldol can do
   this, so stopping Haldol and switching to zyprexa PRN.
   -Gave benadryl in case laryngeal edema ET tube caused inflammation and
   concern for airway compromise, (less likely, and more likely secondary
   to agitation)
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2130-2-17**] 10:00 PM
   Cefipime - [**2130-2-19**] 07:52 PM
   Metronidazole - [**2130-2-20**] 04:08 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2130-2-20**] 02:09 AM
   Haloperidol (Haldol) - [**2130-2-20**] 02:33 AM
   Furosemide (Lasix) - [**2130-2-20**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-20**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 66 (60 - 88) bpm
   BP: 136/77(93) {114/63(82) - 192/118(123)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 91.4 kg (admission): 92.8 kg
    CVP: 13 (13 - 26)mmHg
   Total In:
                                                                  1,450 mL
                                                                    164 mL
   PO:
                                                                    960 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                  2,215 mL
                                                                    650 mL
   Urine:
                                                                  2,215 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -765 mL
                                                                   -486 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   12.9 g/dL
   114 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.1 mEq/L
   31 mg/dL
   111 mEq/L
   147 mEq/L
   36.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2130-2-17**]  05:09 PM
                             [**2130-2-17**]  08:28 PM
                             [**2130-2-17**]  09:07 PM
                             [**2130-2-18**]  04:04 AM
                             [**2130-2-18**]  06:29 AM
                             [**2130-2-18**]  01:10 PM
                             [**2130-2-19**]  03:54 AM
                             [**2130-2-19**]  12:38 PM
                             [**2130-2-20**]  04:30 AM
   WBC
   15.6
   5.7
   10.4
   Hct
   36.9
   33.8
   34.4
   36.5
   Plt
   192
   106
   135
   Cr
   1.7
   1.3
   1.4
   TropT
   0.02
   <0.01
   0.02
   TCO2
   20
   23
   22
   21
   Glucose
   192
   163
   114
   Other labs: PT / PTT / INR:52.2/46.1/5.8, CK / CKMB /
   Troponin-T:149/7/0.02, ALT / AST:44/38, Alk Phos / T Bili:111/0.9,
   Amylase / Lipase:64/, Differential-Neuts:91.8 %, Lymph:4.0 %, Mono:4.1
   %, Eos:0.1 %, Fibrinogen:337 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275
   IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Imaging: CXR AP [**2130-2-19**]
   The patient has been extubated. Lung volumes are maintained and
   pulmonary
   edema has cleared. Moderate cardiomegaly is longstanding. There is no
   appreciable pleural effusion. Right internal jugular line tip projects
   over
   the junction of brachiocephalic veins and transvenous right atrial and
   right
   ventricular pacer leads are in standard placements.
   Microbiology: [**2130-2-17**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL INPATIENT - oral flora
   [**2130-2-17**]  URINE URINE CULTURE-FINAL EMERGENCY [**Hospital1 **]
   [**2130-2-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   76 yo M w/ AVR on coumadin, CHB pacer dependent, Afib, prostate CA on
   hydrocortisone po presents from home with acute onset chills and
   vomiting followed by septic shock and respiratory failure.
   # Septic Shock
   Resolved. Presumably urinary source given positive urine cultures with
   group B strep and e. coli. Abdominal exam benign and CT ab/pelvis w/out
   contrast unremarkable at OSH. Also AI a concern given home steroid use.
   [**Month (only) 60**] have a cardiogenic component based on clinical exam on admission.
   Off pressors for 24 hours. Apparently had a similar bout of urosepsis
   after urologic procedure 3 years ago with very small amount of bacteria
   in urine.
   - continue broad coverage for abdominal source and pneumonia with IV
   cefepime, flagyl
   - DC azithro as no evidence of pulmonary pathology
   - cont IVF to keep CVP > 12
   - wean steroids to 50mg IV Q8H
   - f/u cultures (sputum, stool, blood, urine)
   - contact OSH [**Name (NI) **] for culture data
   # Delerium: No focal findings, waxing and [**Doctor Last Name 42**] nature most c/w
   steroid induced vs toxic metabolic in setting of ICU stay and recent
   septic shock.
   - Stopped steroids
   - Consider holding zofran
   - Frequent reorientation
   - Pull A line and PIV
   - Call out to floor may benefit pt
   # Hypoxic Respiratory Failure; Resolved. 96% on RA.
   # Anemia: Consider hemolysis given hapto <5 although T bili normal and
   LD trending down, consider GI bleed.
   - Recheck hapto
   - Recheck HCT
   - Guiac all stools
   - CVP and PIV in place
   - Maintain active T/S
   # Emesis
    Resolved for now. Possibly [**1-24**] sepsis vs viral gastroenteritis. No
   evidence of obstruction. LFTs underwhelming, exam benign. OSH
   non-contrast CT ab/pelvis unremarkable.
   - send stool, f/u other cultures
   - zofran prn
   - trand LFTs
   - OG tube pulled
   # Acute Renal Failure
   Baseline 1.3 ([**2130-1-26**]), up to 1.7 on admit. Improved to 1.3, probable
   prerenal, although ATN not ruled out.
   - f/u urine lytes, eos
   - trend creatinine
   - avoid nephrotoxins
   # AVR/CHB pacer dependent
   [**First Name8 (NamePattern2) **] [**Male First Name (un) 6198**] on coumadin. INR still elevated at 6.5 (goal 2.5-3.5) no e/o
   bleed, but downtrending HCT.
   - holding coumadin in setting of elevated INR, trend closely with ABX
   regimen
   - Recheck HCT
   - check ECHO
   - CEs negative
   # Elevated LFTs
   Improving. CT at OSH unrevealing. Could be [**1-24**] shock liver.
   - trend
   # Prostate CA
   - holding ketoconazole in setting of N/V
   - po hydrocort switched to IV given shock
   - outpatient eval for ? sclerotic lesions seen on OSH CT ab/pelvis
   # Thrombocytopenia - Mild, baseline 160-200s. DIC labs negative
   - continue to trend
   ICU Care
   Nutrition: Regular, low sodium, lactose free
   Glycemic Control:  ISS as on steroids
   Lines:
   Multi Lumen - [**2130-2-17**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:  H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:

2130-02-20 10:00:00 Physician Attending Progress Note
Chief Complaint: Sepsis/ respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2130-2-17**] 10:00 PM
   Cefipime - [**2130-2-19**] 07:52 PM
   Metronidazole - [**2130-2-20**] 04:08 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2130-2-20**] 02:09 AM
   Haloperidol (Haldol) - [**2130-2-20**] 02:33 AM
   Furosemide (Lasix) - [**2130-2-20**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy, INR 5.2
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, Delirious, No(t) Daytime
   somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2130-2-20**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 63 (60 - 88) bpm
   BP: 149/65(86) {114/63(82) - 192/118(123)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
   Wgt (current): 91.4 kg (admission): 92.8 kg
   CVP: 13 (13 - 26)mmHg
   Total In:
                                                                  1,450 mL
                                                                    199 mL
   PO:
                                                                    960 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  2,215 mL
                                                                    810 mL
   Urine:
                                                                  2,215 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -765 mL
                                                                   -611 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, No(t) Distant, Loud,
   Widely split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur:
   Systolic, No(t) Diastolic), 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , Crackles : , No(t) Bronchial: , Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   135 K/uL
   114 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.1 mEq/L
   31 mg/dL
   111 mEq/L
   147 mEq/L
   36.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2130-2-17**]  05:09 PM
                             [**2130-2-17**]  08:28 PM
                             [**2130-2-17**]  09:07 PM
                             [**2130-2-18**]  04:04 AM
                             [**2130-2-18**]  06:29 AM
                             [**2130-2-18**]  01:10 PM
                             [**2130-2-19**]  03:54 AM
                             [**2130-2-19**]  12:38 PM
                             [**2130-2-20**]  04:30 AM
   WBC
   15.6
   5.7
   10.4
   Hct
   36.9
   33.8
   34.4
   36.5
   Plt
   192
   106
   135
   Cr
   1.7
   1.3
   1.4
   TropT
   0.02
   <0.01
   0.02
   TCO2
   20
   23
   22
   21
   Glucose
   192
   163
   114
   Other labs: PT / PTT / INR:52.2/46.1/5.8, CK / CKMB /
   Troponin-T:149/7/0.02, ALT / AST:44/38, Alk Phos / T Bili:111/0.9,
   Amylase / Lipase:64/, Differential-Neuts:91.8 %, Lymph:4.0 %, Mono:4.1
   %, Eos:0.1 %, Fibrinogen:337 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275
   IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Hemodyn improved but still confused. INR remains substantially
   prolonged.  Still have no clear source for sepsis - UCx + from outside
   hosp but only 40k col of E coli and we have not had + BC.  Would image
   RUQ.  Echo today - suspect he can benefit from further diuresis. PO4
   very low this morning - being repleted
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2130-2-17**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2130-02-21 07:16:00 Physician Resident Progress Note
Chief Complaint: somnolence
   24 Hour Events:
   - echo yesterday shows dilated LA, mod dilated ascending aorta, no
   masses or vegetations noted, mild MS, trivial MR, mild PAH.
   - restarted home dose steroids
   - pm lytes: hypernatremia resolved, other lytes repleted
   - 11PM lytes: hypokalemia 3.1
   - central line pulled, replaced with peripherals
   - pt consult
   - started cefpodoxime
   - restarted lisinopril, stopped hydral to good effect
   - follow I/O, keep 1L negative today --> net even at MN, received Lasix
   40mg IV x 1 & K+
   - GU ONC requested restarting Ketoconazole at d/c & check PSA, f/u in 2
   weeks from d/c w. Dr. [**Last Name (STitle) 5889**]
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2130-2-19**] 07:52 PM
   Metronidazole - [**2130-2-20**] 04:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-2-20**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies H/a, visual changes, CP, SOB (except when
   laying flat), abd pain, N/V/D/C. Had +BM this AM. No leg pain.
   Flowsheet Data as of  [**2130-2-21**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 61 (60 - 90) bpm
   BP: 149/72(91) {115/52(68) - 174/119(126)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 91.4 kg (admission): 92.8 kg
    CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  2,073 mL
                                                                    617 mL
   PO:
                                                                  1,260 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    633 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                  1,325 mL
   Urine:
                                                                  2,130 mL
                                                                  1,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -57 mL
                                                                   -709 mL
   Respiratory support
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: A+Ox2-3 (thinks it
[**Initials (NamePattern4) **] [**2130-5-23**]), No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: RRR no mrg.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: bilateral
   expiratory wheezing and crackles to mid lung fields.
   Abdominal: Soft, Non-tender, Bowel sounds present, NT, ND, no r/g.
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent; there are venous stasis changes bil LE.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, and time.,
   Labs / Radiology
   138 K/uL
   12.5 g/dL
   103 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   29 mg/dL
   111 mEq/L
   145 mEq/L
   36.1 %
   6.4 K/uL
        [image002.jpg]
                             [**2130-2-17**]  09:07 PM
                             [**2130-2-18**]  04:04 AM
                             [**2130-2-18**]  06:29 AM
                             [**2130-2-18**]  01:10 PM
                             [**2130-2-19**]  03:54 AM
                             [**2130-2-19**]  12:38 PM
                             [**2130-2-20**]  04:30 AM
                             [**2130-2-20**]  03:59 PM
                             [**2130-2-20**]  09:51 PM
                             [**2130-2-21**]  03:46 AM
   WBC
   15.6
   5.7
   10.4
   6.4
   Hct
   36.9
   33.8
   34.4
   36.5
   36.1
   Plt
   192
   106
   135
   138
   Cr
   1.7
   1.3
   1.4
   1.6
   1.6
   1.5
   TropT
   0.02
   <0.01
   0.02
   TCO2
   22
   21
   Glucose
   192
   163
   114
   [**Telephone/Fax (3) 11733**]
   Other labs: PT / PTT / INR:49.6/43.4/5.4, CK / CKMB /
   Troponin-T:149/7/0.02, ALT / AST:44/38, Alk Phos / T Bili:111/0.9,
   Amylase / Lipase:64/, Differential-Neuts:91.8 %, Lymph:4.0 %, Mono:4.1
   %, Eos:0.1 %, Fibrinogen:337 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275
   IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   MICROBIOLOGY:
   [1][**2130-2-17**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-negative
   [2][**2130-2-17**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL: resp flora
   [3][**2130-2-17**]
   MRSA SCREEN
   MRSA SCREEN-negative
   [4][**2130-2-17**]
   URINE
   Legionella Urinary Antigen -negative
   [5][**2130-2-17**]
   URINE
   URINE CULTURE-negative
   [6][**2130-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   IMAGING: CXR [**2130-2-20**]
   FINDINGS: As compared to the previous examination, there are now
   classically
   signs of moderate pulmonary edema. No evidence of focal parenchymal
   opacities
   suggesting pneumonia. No pleural effusions. Borderline size of the
   cardiac
   silhouette. The monitoring and support devices are in unchanged
   position.
   The referring physician, [**Last Name (NamePattern4) **]. [**Last Name (STitle) 11451**] was contact[**Name (NI) **] by telephone at the
   time of
   dictation.
   ECHO: [**2130-2-20**]:
   IMPRESSION: poor technical quality due to patient's body habitus. Left
   ventricular function is probably normal, a focal wall motion
   abnormality cannot be fully excluded. The right ventricle is not well
   seen. There is an aortic prosthesis - which appears most likely a
   bioprosthesis. The gradient is higher than expected for this kind of
   prosthesis.
   Assessment and Plan
   76 yo M w/ AVR on coumadin, CHB pacer dependent, Afib, prostate CA on
   hydrocortisone presents from home with acute onset chills and vomiting
   followed by septic shock and respiratory failure, now resolving.
   # Delirium: No focal findings, most c/w steroid induced vs toxic
   metabolic in setting of ICU stay and recent septic shock, much improved
   today.
   - Zyprexa PRN: agitation
   - Restarted home steroids yesterday (hydrocortisone 10 mg q AM, 20 q
   PM)
   - Frequent reorientation
   - Pulled A-line, D/C foley once good diuresis acheieved and no longer
   in need of close UOP monitoring.
   # Supratherapeutic INR: Patient pacer dependent s/p AVR with St. Jude
   valve on Coumadin. INR still supratherapeutic at 5.8 (goal 2.5-3.5)
   with e/o of conjunctival hemorrhage, but stable HCT.
   - Continue to hold Coumadin
   - Monitor closely for visual changes and other sources of bleeding
   - Daily HCT
   - Will need to monitor coumadin dosing closely if ketoconazole is
   restarted on d/c.
   # Septic Shock: Resolved. Presumably urinary source given positive GBS
   & E. coli urine cultures; possibly PNA with CXR with ?of consolidation
   at admission. Now afebrile, downtrending WBC, CXR with pulm edema but
   no e/o PNA. Patient w/ h/o urosepsis after urologic procedure ~ 3 years
   ago.
   - Continue Cepodoxime, day [**4-1**]
   - Restarted Hydrocortisone [**2130-2-20**].
   - Respiratory viral culture negative.
   # Hypoxic Respiratory Distress: Waxing and [**Doctor Last Name 42**] course.  Has periods
   throughout the day of respiratory distress, likely secondary to
   pulmonary edema from underlying diastolic dysfunction. Now 96% on RA.
   Remains wheezy with crackles, but improves with diuresis.
   - More aggressive diuresis with Lasix, closely monitoring lytes.
   - goal 2L diuresis or until respiratory improvement.
   - Closely monitor blood pressure, may warrant going up on BP meds
   .
   # Anemia: Stable at 36.1 today. Initially, concern for hemolysis given
   hapto <5, but Hct has not downtrended.
   - Trend HCT
   - Guaiac all stools
   - PIV in place, active T/S
   # Acute Renal Failure
   Baseline 1.3 ([**2130-1-26**]), 1.7 on admission. FeNa on [**2-18**] 8.7, c/w ATN, but
   Cr improved to 1.5  today, so appears at baseline.  [**Month (only) 60**] improve with
   diuresis.
   - Trend BUN/Cr
   - Avoid nephrotoxic agents
   # Elevated LFTs: Nearly resolved. Only abnormal value [**2130-2-20**] was
   modestly elevated ALT to 44.
   - Trend qOD
   # Prostate CA:
   - PSA [**2130-2-20**] 95.2, 56.4 on [**2130-1-26**]
   - Continue to hold Ketoconazole, but could restart if QT stable & INR
   not supratherapeutic
   - Restarted steroids
   - Outpatient eval for ?sclerotic lesions seen on OSH CT ab/pelvis
   # Thrombocytopenia: PLT count 135 this AM. Mild, baseline 160-200s. DIC
   labs negative.
   - Continue to trend, improving.
   .
   # Weakness/?Neuromuscular issue: Patient at baseline able to walk at
   home, climb stairs holding railing, get up from seated position, per
   wife.  [**Name (NI) 59**] acute change in his baseline functioning prior to admission.
   Would benefit from PT and getting OOB.  If persisitent weakness is
   noted, consider neuro consult.
   ICU Care
   Nutrition: Regular, low sodium, lactose free
   Central line removed [**2130-2-20**]
   ISS for glucose control while on steroids
   Prophylaxis:
   DVT: coumadin
                  Stress ulcer:  H2blocker
   VAP:
   Communication:  Patient  and patient
s wife.
   [**Name (NI) 66**] status: Full code
   Disposition: call out with improvement in delerium, bed availability
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2130-02-22 06:36:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
   - BP 140s/80s today, systolic high of 170
s/ diastolic high 100
   - diuresed 2.5 liters
   - Cr rose to 1.7 with diuresis
   - pt fell asleep when team went to assess neuromuscular function, his
   wife states that the patient has had weakness with ambulation, movement
   since 6 yrs ago after his hip fx, 1 fall one month ago. At baseline, is
   able to walk at home, goes up stairs using handrail, able to get out of
   chair if chair has handles. Never has been very active, per his wife.
   She has not noticed acute worsening of muscle strength or weakness.
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2130-2-19**] 07:52 PM
   Metronidazole - [**2130-2-20**] 04:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-2-21**] 06:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-22**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 61 (60 - 73) bpm
   BP: 130/67(82) {130/67(82) - 175/105(122)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 90 kg (admission): 92.8 kg
                  Total In:
                                                                  2,275 mL
                                                                    120 mL
   PO:
                                                                  1,960 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    315 mL
   Blood products:
   Total out:
                                                                  4,835 mL
                                                                    635 mL
   Urine:
                                                                  4,835 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,560 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: A+Ox2-3, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No LAD
   Cardiovascular: RRR no m,r,g
   Respiratory / Chest: bilateral expiratory wheezing and crackles to mid
   lung fields.
   Abdominal: Soft, bowel sounds present, NT/ND
   Extremities: No LE edema, stasis changes present in lower extremities
   b/l
   Neurologic: Attentive, follows simple commands,
   Peripheral Vascular: dp pulses present in all extremities
   Labs / Radiology
   158 K/uL
   13.6 g/dL
   129
   1.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   31 mg/dL
   108 mEq/L
   143 mEq/L
   39.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2130-2-19**]  03:54 AM
                             [**2130-2-19**]  12:38 PM
                             [**2130-2-20**]  04:30 AM
                             [**2130-2-20**]  03:59 PM
                             [**2130-2-20**]  09:51 PM
                             [**2130-2-21**]  03:46 AM
                             [**2130-2-21**]  03:56 PM
                             [**2130-2-22**]  12:00 AM
                             [**2130-2-22**]  03:12 AM
                             [**2130-2-22**]  06:00 AM
   WBC
   5.7
   10.4
   6.4
   6.7
   Hct
   33.8
   34.4
   36.5
   36.1
   39.0
   Plt
   106
   135
   138
   158
   Cr
   1.3
   1.4
   1.6
   1.6
   1.5
   1.6
   1.7
   TropT
   0.02
   Glucose
   163
   114
   219
   105
   103
   119
   125
   126
   129
   Other labs: PT / PTT / INR:53.7/40.0/5.9, CK / CKMB /
   Troponin-T:149/7/0.02, ALT / AST:44/38, Alk Phos / T Bili:111/0.9,
   Amylase / Lipase:64/, Differential-Neuts:91.8 %, Lymph:4.0 %, Mono:4.1
   %, Eos:0.1 %, Fibrinogen:337 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275
   IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Microbiology: C. diff [**2-21**]: negative
   C. jejuni [**2-21**]: pending
   Assessment and Plan
   76 yo M w/ AVR on coumadin, CHB pacer dependent, Afib, prostate CA on
   hydrocortisone presents from home with acute onset chills and vomiting
   followed by septic shock and respiratory failure, now resolving.
   # Hypoxic Respiratory Distress: Improved with >2.5L diuresis yesterday,
   now length of stay negative. Currently 99-100% on RA during the day, 2L
   by NC overnight for comfort.  Patient
s breathing unlabored sitting up,
   but remains mildly wheezy with crackles when lying flat.
   - Lasix 40mg PO daily with 40mg IV Lasix PRN, with close eye to renal
   function
   - Wean O2 as tolerates
   # Supratherapeutic INR: Patient pacer dependent s/p AVR with St. Jude
   valve on Coumadin. INR still supratherapeutic at 5.9 (goal 2.5-3.5)
   with e/o of conjunctival hemorrhage, but stable HCT.
   - Continue to hold Coumadin
   - Monitor closely for visual changes and other sources of bleeding
   - Daily HCT
   - Monitor Coumadin dosing closely if ketoconazole is restarted on d/c.
   # Hypertension: Patient with elevated sbp
s yesterday despite diuresis
   on home antihypertensives, in the setting of restarting home steroids.
   Will require good bp control given diastolic heart failure and tendency
   for pulmonary edema.
   - Continue Lisinopril 40mg PO daily
   - Continue Metoprolol Tartrate 12.5mg PO BID
   - Consider increasing Metoprolol to 25mg PO BID (given patient is
   paced)
   # Diarrhea: Patient with infrequent watery diarrhea over past 2 days.
   C. diff screen negative, C. jejuni pending. [**Month (only) 60**] be secondary to
   medication/diet. Remains afebrile with normal WBC.
   - F/U C. jejuni
   - If culture negative, can give Loperamide PRN for comfort
   # Septic Shock: Resolved. Presumably urinary source given positive GBS
   & E. coli urine cultures; possibly PNA with CXR with ?of consolidation
   at admission. Now afebrile, downtrending WBC, CXR with pulm edema but
   no e/o PNA. Patient w/ h/o urosepsis after urologic procedure ~ 3 years
   ago.
   - Continue Cepodoxime, day [**5-1**]
   - Continue Hydrocortisone
   # Delirium: Improved despite restarting home steroids on [**2-19**]. Prior
   delirium likely multifactorial in context of septic shock, ICU stay,
   and steroids.
   - Zyprexa PRN: agitation
   - Continue home Hydrocortisone 10 mg q AM, 20 q PM
   - Frequent reorientation
   - Consider D/C
ing Foley today
   # Anemia: Stable over past 24 hours. Hct 39.0 today. Low haptoglobin on
   admission suggested infection driven hemolysis, but appears to have
   resolved with treatment of infection.
   - Trend HCT
   - Guaiac all stools
   - PIV in place, active T/S
   # Acute Renal Failure:
   Baseline 1.3 ([**2130-1-26**]), 1.7 on admission, today rose to 1.7 after
   aggressive diuresis.
   - Trend BUN/Cr
   - Avoid nephrotoxic agents
   - Minimize additional diuresis if possible
   # Prostate CA:
   - PSA [**2130-2-20**] 95.2, 56.4 on [**2130-1-26**]
   - Continue to hold Ketoconazole, but will restart if QT stable & INR
   not supratherapeutic
   - Continue home steroids
   - Outpatient eval for ?sclerotic lesions seen on OSH CT ab/pelvis
   # Thrombocytopenia: Resolved. PLT count 158 this AM. At baseline of
   160-200s. DIC labs negative.
   - Continue to trend
   # Weakness/?Neuromuscular issue: Patient at baseline able to walk at
   home, climb stairs holding railing, get up from seated position, per
   wife.  [**Name (NI) 59**] acute change in his baseline functioning prior to admission.
   Would benefit from PT and getting OOB.  If not at baseline per family,
   can consider neurology consult.
   ICU Care
   Nutrition: Regular, low sodium, lactose free
   Glycemic Control:  ISS for glucose control while on steroids
   Lines:
   20 Gauge - [**2130-2-20**] 05:13 PM
   Prophylaxis:
   DVT: Supratherapeutic INR, holding Coumadin
   Stress ulcer: H2blocker
   VAP:
   Comments:
   Communication:  Comments: Patient and patient
s wife.
   [**Name (NI) 66**] status: Full code
   Disposition: call out today

2130-02-22 10:40:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with negative fluild balance effected in past 24 hours
   Wife reports weakness is part of patient's slow and steady decline at
   home.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2130-2-19**] 07:52 PM
   Metronidazole - [**2130-2-20**] 04:08 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-2-21**] 06:28 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2130-2-22**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 61 (60 - 73) bpm
   BP: 180/88(111) {130/67(82) - 180/105(122)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 90 kg (admission): 92.8 kg
             Total In:
                                                                  2,275 mL
                                                                    271 mL
   PO:
                                                                  1,960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    315 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                  4,835 mL
                                                                    765 mL
   Urine:
                                                                  4,835 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,560 mL
                                                                   -494 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : diminshed from previous exam by report,
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.6 g/dL
   158 K/uL
   129
   1.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   31 mg/dL
   108 mEq/L
   143 mEq/L
   39.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2130-2-19**]  03:54 AM
                             [**2130-2-19**]  12:38 PM
                             [**2130-2-20**]  04:30 AM
                             [**2130-2-20**]  03:59 PM
                             [**2130-2-20**]  09:51 PM
                             [**2130-2-21**]  03:46 AM
                             [**2130-2-21**]  03:56 PM
                             [**2130-2-22**]  12:00 AM
                             [**2130-2-22**]  03:12 AM
                             [**2130-2-22**]  06:00 AM
   WBC
   5.7
   10.4
   6.4
   6.7
   Hct
   33.8
   34.4
   36.5
   36.1
   39.0
   Plt
   106
   135
   138
   158
   Cr
   1.3
   1.4
   1.6
   1.6
   1.5
   1.6
   1.7
   TropT
   0.02
   Glucose
   163
   114
   219
   105
   103
   119
   125
   126
   129
   Other labs: PT / PTT / INR:53.7/40.0/5.9, CK / CKMB /
   Troponin-T:149/7/0.02, ALT / AST:44/38, Alk Phos / T Bili:111/0.9,
   Amylase / Lipase:64/, Differential-Neuts:91.8 %, Lymph:4.0 %, Mono:4.1
   %, Eos:0.1 %, Fibrinogen:337 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275
   IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: No new images
   Assessment and Plan
   76 yo male with presentation with sepsis now with substantial
   improvement and able to move towards diuresis.  He
   1)Sepsis--Patient now with resolution of acute SIRS and moving to
   management of volume overload.
   -Resolved SIRS
   -Day [**5-1**] of cefpodoxime
   2)Coagulopathy-INR remains at 5.9
   -Follow HCT and INR
   -Move to decrease INR as possible
   3)Respiratory Distress
Much improved with diruesis and has intermittent
   rare wheezes noted
   -Continue with home lasix dosing
   -Will continue with MDI
   -Move to wean off O2
   4)HTN-Will continue diuresis and return anti-hypertensive medications
   -Increase in Metoprolol dosing today
   -Patient will remain paced at 60
 DIARRHEA
 HYPERTENSION, BENIGN
 DELIRIUM / CONFUSION
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition: PO to return supervised feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2130-2-20**] 05:13 PM
   Prophylaxis:
   DVT: Anticoagulated
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Plan discussed in detail with patient
   daughter with wife in attendance with plan to move to floor.
   Code status: Full code
   Disposition :ICU
Move to floor with continued improvement in mental
   status and achievement of negative fluid balance.
   Total time spent: 35 minutes